US06878722B2
A solution of N—Boc-(1R,2S)-1-amino-2-vinylcyclopropane carboxylic acid (255 mg, 1.0 mmol) in ether (10 mL) was treated with palladium acetate (5 mg, 0.022 mmol). The orange/red solution was placed under an atmosphere of N2. An excess of diazomethane in ether was added dropwise over the course of 1 h. The resulting solution was stirred at rt for 18 h. The excess diazomethane was removed using a stream of nitrogen. The resulting solution was concentrated by rotary evaporation to give the crude product. Flash chromatography (10% EtOAc/hexane) provided 210 mg (78%) of N—Boc-(1R,2S)-1-amino-2-cyclopropylcyclopropane carboxylic acid ethyl ester as a colorless oil. LC-MS (retention time: 2.13, similar to method A except: gradient time 3 min, Xterra MS C18 S7 3.0×50 mm column), MS m/e 270 (M++1).

reactant | N—Boc-(1R,2S)-1-amino-2-vinylcyclopropane carboxylic acid | 1.0 mmol, 255 mg | C(=O)(OC(C)(C)C)N[C@]1([C@@H](C1)C=C)C(=O)O | C11H17NO4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | ether | 10 mL | CCOCC | C4H10O
catalyst | palladium acetate | 0.022 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N—Boc-(1R,2S)-1-amino-2-cyclopropylcyclopropane carboxylic acid ethyl ester | 210 mg, 78% | C(C)OC(=O)[C@@]1([C@@H](C1)C1CC1)NC(=O)OC(C)(C)C | C14H23NO4
